US08536187B2
Synthesis of (R)-4-{1-[6-(4-Fluoro-phenyl)-4-cyclopropoxy-pyrido[3,2-d]pyrimidin-2-ylamino]-ethyl}-benzenesulfonamide
A mixture of (R)-4-(1-(4-(1H-benzo[d][1, 2, 3]triazol-1-yloxy)-6-(4-fluorophenyl)pyrido[3,2-d]pyrimidin-2-ylamino)ethyl)benzenesulfonamide (80 mg), cyclopropanol (0.1 ml) and CsCO3 (94 mg) in DME (3 ml) was stirred at room temperature over the weekend. The reaction mixture was concentrated and purified by reverse phase HPLC (eluting with ACN/H2O+0.1% TFA) to give the title compound, which was characterized by its NMR and mass spectrum as follows: 1H NMR (CD3OD): d 0.83-1.04 (m, 4H), 1.66-1.70 (m, 3H). 4.50-4.58 (m, 1H), 5.40-5.49 (m, 1H), 7.19 (t, 2H), 7.61-7.88 (m, 4H), 7.99-8.02 (m, 1H), 8.08-8.13 (m, 2H), 8.30 (s, 1H); MS (m/z): 480.3 ([M+H]+, 100).

reactant | (R)-4-(1-(4-(1H-benzo[d][1, 2, 3]triazol-1-yloxy)-6-(4-fluorophenyl)pyrido[3,2-d]pyrimidin-2-ylamino)ethyl)benzenesulfonamide | 80 mg | N1(N=NC2=C1C=CC=C2)OC=2C1=C(N=C(N2)N[C@H](C)C2=CC=C(C=C2)S(=O)(=O)N)C=CC(=N1)C1=CC=C(C=C1)F | C27H21FN8O3S
reactant | cyclopropanol | 0.1 ml | C1(CC1)O | C3H6O
solvent | DME | 3 ml | COCCOC | C4H10O2
product | (R)-4-{1-[6-(4-Fluoro-phenyl)-4-cyclopropoxy-pyrido[3,2-d]pyrimidin-2-ylamino]-ethyl}-benzenesulfonamide | FC1=CC=C(C=C1)C=1C=CC=2N=C(N=C(C2N1)OC1CC1)N[C@H](C)C1=CC=C(C=C1)S(=O)(=O)N | C24H22FN5O3S
